US08247403B2
(3) 9-(2,2,2-trifluoro-1-methylethyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-(2,2,2-trifluoro-1-methylethyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (100 mg, 0.290 mmol), ethyl acetate (2 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (60.0 mg, 73.4%) as a solid.

reactant | tert-butyl 9-(2,2,2-trifluoro-1-methylethyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.290 mmol, 100 mg | FC(C(C)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C)(F)F | C17H22F3NO3
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 9-(2,2,2-trifluoro-1-methylethyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 60.0 mg, 73.4% | Cl.FC(C(C)C1=CC=CC=2CNCCOC21)(F)F | InChI=1S/C12H14F3NO.ClH/c1-8(12(13,14)15)10-4-2-3-9-7-16-5-6-17-11(9)10;/h2-4,8,16H,5-7H2,1H3;1H
